US07208513B2
A. 2-Furyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide
To a solution of 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.125 g, 0.207 mmol), in tetrahydrofuran (5 mL), were added, 2-furoyl chloride (0.041 g, 0.315 mmol, 0.031 mL) and triethyl amine (0.107 g, 1.06 mmol, 0.147 mL). The reaction mixture was stirred at room temperature for 12 hours. After evaporation of the solvent, the residue was dissolved in 10 mL of ethyl acetate and was washed 3 times with water (5 mL). The crude was used without further purification (0.150 g, 99% yield): ES-MS (m/z) 697 [M+1]+.

reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.207 mmol, 0.125 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | 2-furoyl chloride | 0.315 mmol, 0.031 mL, 0.041 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | triethyl amine | 1.06 mmol, 0.147 mL, 0.107 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-Furyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide | 99% yield | O1C(=CC=C1)C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C44H36N6O3
